US04297516
E-4-(1'-Fluorovinyl)-1-tributylstannyl-4-trimethylsilyloxy-1-octene
A mixture of 21.4 ml. of tributylstannane, 18.3 g. of 4-(1'-fluorovinyl)-4-trimethylsilyloxy-1-octyne and azobisisobutyronitrile is heated under an inert atmosphere on an oil bath. Upon reaching 85° C. a rapid exotherm occurs which is moderated to maintain 140° C. using a water bath. After the exotherm the mixture is heated at 135° C. for one hour, then cooled to room temperature. The resulting oil is distilled via a Kugelrohr to give the desired product as 33.68 g. of a light yellow liquid (air bath 160° C., 0.15 mm.).

reactant | tributylstannane | C(CCC)[SnH](CCCC)CCCC
reactant | 4-(1'-fluorovinyl)-4-trimethylsilyloxy-1-octyne | FC(=C)C(CC#C)(CCCC)O[Si](C)(C)C | C13H23FOSi
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | E-4-(1'-Fluorovinyl)-1-tributylstannyl-4-trimethylsilyloxy-1-octene | FC(=C)C(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCC)O[Si](C)(C)C | InChI=1S/C13H24FOSi.3C4H9.Sn/c1-7-9-11-13(10-8-2,12(3)14)15-16(4,5)6;3*1-3-4-2;/h2,8H,3,7,9-11H2,1,4-6H3;3*1,3-4H2,2H3;
